US06903126B2
N-(3-Methoxypropyl)-6-[[2-(morpholin-4-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanamide
135 mg of 6-[[2-(morpholin-4-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was reacted with 3-methoxypropylamine according to general operating instructions 4. 94 mg was obtained.

reactant | 6-[[2-(morpholin-4-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 135 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)N2CCOCC2)C2=CC=CC=C2)C1)=O | C24H29N3O4
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | N-(3-Methoxypropyl)-6-[[2-(morpholin-4-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanamide | COCCCNC(CCCCCOC=1C=CC2=C(N(C(=N2)N2CCOCC2)C2=CC=CC=C2)C1)=O | C27H36N4O4
